US09226916B2
rac-{(3R,4S)-4-(3,4-Dichloro-phenyl)-1-[3-(2-oxo-pyrrolidin-1-yl)-propionyl]-pyrrolidin-3-yl}-methyl-carbamic acid 4-fluoro-phenyl ester
In analogy to the procedure described for the synthesis of example 44 (step c), the title compound rac-{(3R,4S)-4-(3,4-dichloro-phenyl)-1-[3-(2-oxo-pyrrolidin-1-yl)-propionyl]-pyrrolidin-3-yl}-methyl-carbamic acid 4-fluoro-phenyl ester was prepared from rac-[(3R,4S)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester instead of rac-{4-[(3S,4R)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone using 3-(2-oxo-pyrrolidin-1-yl)-propionic acid instead of 1-methylcyclopropane-1-carboxylic acid and was obtained as a colorless oil. MS m/e: 522.2 [M]+.

reactant | rac-[(3R,4S)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@H]1CNC[C@@H]1C1=CC(=C(C=C1)Cl)Cl)=O | C18H17Cl2FN2O2
reactant | 3-(2-oxo-pyrrolidin-1-yl)-propionic acid | O=C1N(CCC1)CCC(=O)O | C7H11NO3
product | rac-{(3R,4S)-4-(3,4-dichloro-phenyl)-1-[3-(2-oxo-pyrrolidin-1-yl)-propionyl]-pyrrolidin-3-yl}-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)C(CCN1C(CCC1)=O)=O)=O | C25H26Cl2FN3O4
